US08119665B2
4-({[3-Butyl-5-(4-methoxy-phenyl)-2-phenyl-3H-imidazol-4-ylmethanol (6.72 g, 20 mmol) is dissolved in 30 ml dichloromethane and cooled to 0° C., to the solution is added 5 equivalent of thionyl chloride. The resulting solution is stirred at room temperature for 2 h, the solvent and excess of thionyl chloride is evaporated. 20 ml of toluene is added to the residue and evaporated again to remove the remained thionyl chloride. The residual crude product is dissolved in 30 ml of anhydrous acetonitrile and added to an ice-cooled solution of cyclohexanemethyl amine (2.0 eq.) in 20 ml of acetonitrile containing, 2 equivalent of potassium carbonate. The resulting mixture is stirred at room temperature for 4 h, then diluted with 200 ml of ethyl acetate, washed with water and brine, dried and concentrated, the residue is purified through silica gel chromatography (hexanes/ethyl acetate, from 2:1 to 1:1) to give 11.26 g of 4-({[3-Butyl-5-(4-methoxy-phenyl)-2-phenyl-3H-imidazol-4-ylmethyl]-cyclohexylmethyl-amine. 1H NMR (400 MHz, CDCl3) δ 7.64˜7.60 (4H, m), 7.47˜7.40 (3H, m), 6.94 (2H, d, J=8.8 Hz), 4.11 (2H, m), 3.87 (2H, s), 3.84 (3H,s), 2.52 (H, d, J=6.4 Hz), 0.91˜1.77 (15H, m), 0.84 (3H, t, J=7.2 Hz); MS (+VE) m/z 432 (M+1).

reactant | 3-Butyl-5-(4-methoxy-phenyl)-2-phenyl-3H-imidazol-4-ylmethanol | 20 mmol, 6.72 g | C(CCC)N1C(=NC(=C1CO)C1=CC=C(C=C1)OC)C1=CC=CC=C1 | C21H24N2O2
reactant | thionyl chloride | 5 equivalent | S(=O)(Cl)Cl | Cl2OS
reactant | cyclohexanemethyl amine | 2.0 eq. | C1(CCCCC1)CN | C7H15N
reactant | potassium carbonate | 2 equivalent | C([O-])([O-])=O.[K+].[K+]
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
solvent | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
product | [3-Butyl-5-(4-methoxy-phenyl)-2-phenyl-3H-imidazol-4-ylmethyl]-cyclohexylmethyl-amine | 11.26 g | C(CCC)N1C(=NC(=C1CNCC1CCCCC1)C1=CC=C(C=C1)OC)C1=CC=CC=C1 | C28H37N3O
